US09056914B2
To a solution of 460 mg of tert-butyl 4-[[2-(2,6-bis-hydroxymethyl-pyridin-4-yloxy)-ethyl]-(3-{2-[2-(2-methoxy-ethoxy)-ethoxy]-ethoxy}-propionyl)-amino]-butanoate in 7 ml of DCM were added 1.14 ml of TFA. The mixture was stirred for 15 hours at room temperature and then concentrated under reduced pressure. To the residue obtained, dissolved in 3.8 ml of MeOH, was added, at 50° C., 3.1 ml of a 2M solution of (trimethylsilyl)diazomethane in hexane. The mixture was stirred for 1 hour at 5° C. and 100 μl of acetic acid were then added. After concentration under reduced pressure, the residue obtained was purified by flash chromatography on silica (Analogix Super Flash SiO2 SF25-40g), using a gradient of 2 to 10% MeOH in DCM. The fractions containing the desired product were combined and concentrated under reduced pressure. 265 mg of methyl 4-[[2-(2,6-bis-hydroxymethyl-pyridin-4-yloxy)-ethyl]-(3-{2-[2-(2-methoxy-ethoxy)-ethoxy]-ethoxy}-propionyl)-amino]-butanoate were obtained. 1H NMR (400 MHz, DMSO-d6): 50%-50% mixture of conformers with: 1.67 to 1.86 (m, 2H); 2.27 (t, J=7.3 Hz, 1H); 2.36 (t, J=7.3 Hz, 1H); 2.57 (t, J=6.7 Hz, 1H); 2.66 (t, J=6.7 Hz, 1H); 3.23 (s, 3H); 3.31 to 3.75 (m, 21H); 4.14 (t, J=5.6 Hz, 1H); 4.19 (t, J=5.6 Hz, 1H); 4.45 (m, 4H); 5.30 (m, 2H); 6.84 (s, 1H); 6.86 (s, 1H). LC/MS (G): tr=0.62 min; [M+H]+: m/z 517; [M−H+HCO2H]−: m/z 561

reactant | tert-butyl 4-[[2-(2,6-bis-hydroxymethyl-pyridin-4-yloxy)-ethyl]-(3-{2-[2-(2-methoxy-ethoxy)-ethoxy]-ethoxy}-propionyl)-amino]-butanoate | 460 mg | OCC1=NC(=CC(=C1)OCCN(CCCC(=O)OC(C)(C)C)C(CCOCCOCCOCCOC)=O)CO | C27H46N2O10
reactant | TFA | 1.14 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (trimethylsilyl)diazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | acetic acid | 100 μl | C(C)(=O)O | C2H4O2
solvent | DCM | 7 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 3.8 ml | CO | CH4O
solvent | hexane | CCCCCC | C6H14
product | methyl 4-[[2-(2,6-bis-hydroxymethyl-pyridin-4-yloxy)-ethyl]-(3-{2-[2-(2-methoxy-ethoxy)-ethoxy]-ethoxy}-propionyl)-amino]-butanoate | 265 mg | OCC1=NC(=CC(=C1)OCCN(CCCC(=O)OC)C(CCOCCOCCOCCOC)=O)CO | C24H40N2O10
